US04460770
A mixture of 92.0 g of p-hydroxyacetophenone, 44.6 g of malononitrile, 5.2 g of ammonium acetate, 8.1 g of acetic acid and 500 ml of toluene was boiled on a water separator for 2 hours while stirring. After cooling, the two-phase mixture was diluted with 700 ml of diethyl ether. The dark red solution was washed four times with 50 ml of saturated sodium chloride solution, dried over sodium sulphate, filtered and evaporated. By fractional crystallization from diisopropyl ether there were obtained 95.7 g of p-(2,2-dicyano-1-methylvinyl)phenol, m.p. 120.5°-121.5° C.

reactant | p-hydroxyacetophenone | 92.0 g | OC1=CC=C(C=C1)C(C)=O | C8H8O2
reactant | malononitrile | 44.6 g | C(CC#N)#N | C3H2N2
reactant | ammonium acetate | 5.2 g | C(C)(=O)[O-].[NH4+]
reactant | acetic acid | 8.1 g | C(C)(=O)O | C2H4O2
solvent | diethyl ether | 700 ml | C(C)OCC | C4H10O
solvent | water | O | H2O
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | p-(2,2-dicyano-1-methylvinyl)phenol | 95.7 g | C(#N)C(=C(C)C1=CC=C(C=C1)O)C#N | C11H8N2O
